US06506744B1
Hydrolysis of (R,S)-3-{2-[7-(3-benzyl-ureido)-5-oxo-2-phenyl-2,3-dihydro-5H-benzo[f][1,4]oxazepin-4-yl]-acetylamino}-3-phenyl-propionic acid ethyl ester (0.15 g, 0.24 mmol) in the presence of aqueous LiOH, as described in Example 1, yielded (R,S)-3-{2-[7-(3-benzyl-ureido)-5-oxo-2-phenyl-2,3-dihydro-5H-benzo[f][1,4]oxazepin-4-yl]-acetylamino}-3-phenyl-propionic acid (0.125 g, 0.21 mmol): mp. 138-140° C.; MS (ISP) 593 (M+1)+.

reactant | (R,S)-3-{2-[7-(3-benzyl-ureido)-5-oxo-2-phenyl-2,3-dihydro-5H-benzo[f][1,4]oxazepin-4-yl]-acetylamino}-3-phenyl-propionic acid ethyl ester | 0.24 mmol, 0.15 g | C(C)OC(C[C@H](C1=CC=CC=C1)NC(CN1C[C@@H](OC2=C(C1=O)C=C(C=C2)NC(=O)NCC2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C36H36N4O6
reactant | LiOH | [Li+].[OH-]
product | (R,S)-3-{2-[7-(3-benzyl-ureido)-5-oxo-2-phenyl-2,3-dihydro-5H-benzo[f][1,4]oxazepin-4-yl]-acetylamino}-3-phenyl-propionic acid | 0.21 mmol, 0.125 g | C(C1=CC=CC=C1)NC(NC=1C=CC2=C(C(N(C[C@@H](O2)C2=CC=CC=C2)CC(=O)N[C@H](CC(=O)O)C2=CC=CC=C2)=O)C1)=O | C34H32N4O6
